US04515948
A suspension of 103 g. of 2,6-dimethoxy-4-(methoxy-carbonyl)-carbanilic acid benzyl ester and 17.3 g. of sodium hydride (50% dispersion in oil) in 1 liter of absolute dimethylformamide was stirred at room temperature for 4 hours and subsequently treated with 56.2 g. of ethyl iodide with stirring and ice-cooling. After stirring at room temperature for 30 minutes, the dimethylformamide was removed at 60° C. under vacuum. Then, 1 liter of water was added to the residue and the mixture was extracted with two 1.5 liter portions of ethyl acetate. The ethyl acetate extract was washed with two 700 ml. portions of water, dried over magnesium sulfate and evaporated under vacuum. After recrystallization of the residue from alcohol, there was obtained N-ethyl-2,6-dimethoxy-4-(methoxy-carbonyl)-carbanilic acid benzyl ester having a melting point of 85°-86° C.

reactant | 2,6-dimethoxy-4-(methoxy-carbonyl)-carbanilic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=C(C=C(C=C1OC)C(=O)OC)OC)=O | C18H19NO6
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | N-ethyl-2,6-dimethoxy-4-(methoxy-carbonyl)-carbanilic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C1=C(C=C(C=C1OC)C(=O)OC)OC)CC)=O | C20H23NO6
